Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Presyncope in setting of anemia
 
Major Surgical or Invasive Procedure:
EGD
 
History of Present Illness:
Mr. ___ is a ___ year old gentleman with a PMH significant 
for IBS who was admitted with presyncope and anemia. The patient 
reports that this morning he was in the shower when he felt 
dizzy. He denies loss of consciousness or a fall, and "walked" 
to his PCP's office where he was found to have a hct of 20 and 
was then referred to the ___ ED for further evaluation. The 
patient reports that the day before ___, he had an 
episode of presyncope while in the shower without LOC. On 
___, he had 1 episode of dark loose stools, followed by 
several subsequent smaller episodes. He denies any CP/SOB, 
f/c/s, hematochezia, melena, n/v, palpitations, HA.  The patient 
reports that he just completed a 4 week course of tetracycline 
for his IBS, and denies any ASA or NSAID use.
. 
In the ___ ED, inital VS 98.4 95 139/64 20 100%RA.  He was 
found to have a hct of 19.5, had a negative NGL, and was 
admitted to the MICU for further management.

 
Past Medical History:
Dupeytren's contactures
Raynaud's phenomenon in the hands and feet.
IBS
"lyme disease"
 
Social History:
___
Family History:
Mother - ?irritable bowel syndrome and dementia.  Father - 
lymphoma.  No hx liver disease or GIB.
 
Physical Exam:
VS: 98.4 31 138/63 18 99%RA
Gen: NAD
HEENT: Sclerae icteric. EOMI, PERRL. MMM. OP clear, neck supple 
without LAD.
CV: Nl S1+S2, no m/r/g.
Pulm: CTAB
Abd: S/NT/ND +bs. Palpable liver edge 4-5 cm below costal 
margin.
Guaiac: Performed in ED, brown positive
Ext: No c/c/e. 
Skin: No spiders
Neuro: AOx3, CN II-XII intact. No asterixis.
 
Pertinent Results:
Admission labs:
___ 02:30PM   GLUCOSE-97 UREA N-25* CREAT-0.8 SODIUM-140 
POTASSIUM-4.9 CHLORIDE-104 TOTAL CO2-29 ANION GAP-12
___ 02:30PM   estGFR-Using this
___ 02:30PM   ALT(SGPT)-57* AST(SGOT)-57* LD(LDH)-250 ALK 
PHOS-64 TOT BILI-0.1
___ 02:30PM   ALBUMIN-3.5
___ 02:30PM   WBC-16.0* RBC-1.97* HGB-6.7* HCT-19.5* 
MCV-99* MCH-34.1* MCHC-34.5 RDW-16.7*
___ 02:30PM   NEUTS-64.5 ___ MONOS-4.0 EOS-0.5 
BASOS-0.5
___ 02:30PM   PLT COUNT-502*
___ 02:30PM   ___ PTT-20.6* ___

Discharge Labs:
___ 07:45AM BLOOD WBC-6.7 RBC-3.09* Hgb-10.2* Hct-29.5* 
MCV-96 MCH-33.1* MCHC-34.6 RDW-17.7* Plt ___
___ 07:45AM BLOOD Glucose-98 UreaN-13 Creat-0.7 Na-141 
K-4.4 Cl-105 HCO3-30 AnGap-10
___ 07:45AM BLOOD Calcium-8.3* Phos-3.5 Mg-2.0

Pertinent Hematology: 
___ 12:46AM BLOOD Hct-23.5*
___ 12:57PM BLOOD Hct-27.8*
___ 04:17PM BLOOD WBC-9.1 RBC-3.05* Hgb-10.1* Hct-28.4* 
MCV-93 MCH-33.0* MCHC-35.5* RDW-18.4* Plt ___

Microbiology:
 HELICOBACTER PYLORI ANTIBODY TEST (Final ___: 
 NEGATIVE BY EIA. 

Studies:
CT ABDOMEN W/CONTRASTStudy Date of ___ 1:25 ___
IMPRESSION: Limited study due to oral contrast located more 
distally in loops of small and large bowel. No evidence of 
infiltrative duodenal or periduodenal lesion or perforation. No 
pathologically enlarged lymph nodes or concerning masses are 
noted.

Endoscopy:
Findings: Esophagus: Normal esophagus. Stomach: Normal stomach. 
Duodenum:  Excavated Lesions A single 4cm ulcer was found in the 
duodenal bulb. There was overlying hematin, slight oozing with 
scope contact but no active bleeding.   
Impression: Ulcer in the duodenal bulb
Otherwise normal EGD to third part of the duodenum 
 
Brief Hospital Course:
___ year old male that presented with a presyncopal episode found 
to have anemia with HCT of 19.

# Anemia/GIB: Patient arrived to ED with hct of 20 and NG lavage 
that was positive for blood. Pt admitted to MICU for overnight 
monitoring and EGD.  He was transfused total of 3Uprbcs in ED 
and MICU, and went for EGD HD#2, which showed a 4cm duodenal 
ulcer that had an overlying clot.  Patient remained stable after 
procedure and was called out to the floor. On the general 
medical floor, he was slowly advanced from clears to regular 
diet and tolerated this well. His HCT was monitored and remained 
stable. He was transitioned to po PPI BID and was discharged 
with follow-up with GI and plans for a repeat EGD in ___ weeks.  
H Pylori antibody testing returned negative while in house.

# EtOH: Patient was placed on CIWA scale d/t concern for abrupt 
cessation of heavy EtOH use, and was given a banana bag (though 
no evidence of malnutrition). He was given thiamine, folate, and 
MVI while in the hospital and discharged with MVI. He was told 
that decreasing his ETOH use and improving his overall nutrition 
would improve his ulcer disease. He did not score on the CIWA or 
require any valium.

Transition of care: He was discharged with follow-up with his 
PCP and his ___. No pending tests.
 
Medications on Admission:
tetracycline
 
Discharge Medications:
1. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Upper GI bleed
Alcohol abuse
Secondary: 
Irritable Bowel Syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___ it was a pleasure taking part in your care. You were 
admitted to ___ because of weakness and anemia- or a low blood 
count. You were given a blood transfusion and your blood count 
improved and remained stable. You had an endoscopy and were 
found to have a large ulcer in your small bowel, just beyond the 
stomach, which was cause of your anemia. You were started on a 
medication called pantoprazole to decrease the acid in your 
stomach and to protect the ulcer, on discharge this medication 
was changed to omeprazole. You had a CT scan of your abdomen 
which was normal. You were in good condition at time of 
discharge, and you were tolerating a regular diet.
.
We made the following changes to your medications:
- STARTED Omeprazole 40mg by mouth twice a day (please take this 
medication on an empty stomach, or 1hr prior to meals)
- STARTED multivitamin 1 tab by mouth daily
.
Please take all other medications as prescribed.
.
Alcohol is a likely cause of your ulcer, decreasing your 
consumption of alcohol would help prevent further ulcers and 
complications.
.
You will need a repeat endoscopy in ___ weeks, which can be 
scheduled with your outpatient gastroenterologist
 
Followup Instructions:
___